### PR TITLE
feat(Morphisms/ProAffineEtale): fill `proAffineEtale_Spec_iff` sorry

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

Fills the `proAffineEtale_Spec_iff` sorry in `Proetale/Morphisms/ProAffineEtale.lean`:
for a ring homomorphism `f : R ⟶ S` in `CommRingCat`, the scheme morphism
`Spec.map f` is pro-affine étale iff `f` is ind-étale.

The proof is split into two helpers:

- `proAffineEtale_Spec_of_indEtale` (backward direction): given an ind-étale ring
  map `f = colim_J (tⱼ ≫ sⱼ)`, apply `Scheme.Spec` to the colimit-presentation to
  obtain a cofiltered limit of affine étale `Spec` maps, then package it as a
  `MorphismProperty.pro` witness.
- `proAffineEtale_Spec_to_indEtale` (forward direction): given a pro-affine étale
  cone `(D, t, s)` of `Spec.map f`, transport `D` along `Scheme.Γ` to a diagram
  `Φ = D.op ⋙ Scheme.Γ` in `CommRingCat`, lift `t`, `s` through the `Γ ⊣ Spec`
  adjunction (which is iso on affine objects, via `Scheme.isoSpec`), and verify
  the colimit by transporting cones back through `Spec` and using
  `Spec.map_injective` / `Spec.map_preimage`.

Combining them gives the `iff`. The other three sorries in this file
(`proAffineEtale_le_weaklyEtale`, `HasOfPostcompProperty`, `PreProSpreads`) are
left untouched and remain as the next chunks to upstream.

Source: ported from the `archon` branch.

## Test plan

- [x] `lake build` succeeds on the full project (8600 jobs).
- [x] `lake build --wfail Proetale.Morphisms.ProAffineEtale` succeeds (no lint warnings).
- [x] `lake exe mk_all --git --check` reports no update necessary.
- [x] No new `sorry` introduced; only the `proAffineEtale_Spec_iff` sorry is closed.

### CODE REVIEW

File: Proetale/Morphisms/ProAffineEtale.lean [hunk 1]
```diff
@@ -71,8 +71,146 @@ instance {X Y : Scheme.{u}} (f : X ⟶ Y) [IsAffineHom f] :
...
+/-- A morphism `Spec.map f` between affine schemes is pro-affine étale if and only
+if `f` is ind-étale.
+
+TODO: generalise to a `pro_HasRingHomProperty_Spec_iff` for any
+`MorphismProperty Scheme` coming from a `HasRingHomProperty` instance. That
+statement would simultaneously cover analogues such as pro-affine-flat ↔ ind-flat,
+pro-affine-smooth ↔ ind-smooth, etc. The forward direction below could also be
+shortened by going through `AffineScheme.equivCommRingCat` instead of unfolding
+the `Γ ⊣ Spec` adjunction by hand. -/
 lemma proAffineEtale_Spec_iff {R S : CommRingCat.{u}} {f : R ⟶ S} :
```
Comment (chrisflav) [inline Proetale/Morphisms/ProAffineEtale.lean]: Implement this TODO.

**Comment by chrisflav** [comment]
orchestra polish

File: Proetale/Morphisms/ProAffineEtale.lean [hunk 2]
```diff
@@ -71,8 +71,153 @@ instance {X Y : Scheme.{u}} (f : X ⟶ Y) [IsAffineHom f] :
...
+        Spec.map (σ j') = s.app j'.unop ≫ (D.obj j'.unop).isoSpec.hom :=
+      fun j' ↦ Spec.map_preimage _
+    have hSpec_τ : ∀ j' : Jᵒᵖ,
+        Spec.map (τ j') = (D.obj j'.unop).isoSpec.inv ≫ t.app j'.unop :=
+      fun j' ↦ Spec.map_preimage _
+    let τNat : (Functor.const Jᵒᵖ).obj R ⟶ Φ :=
+      { app := τ
+        naturality := fun j' k' α ↦ by
+          haveI : IsAffine (D.obj j'.unop) := hAff j'.unop
+          haveI : IsAffine (D.obj k'.unop) := hAff k'.unop
```
Comment (chrisflav) [inline Proetale/Morphisms/ProAffineEtale.lean]: Don't use `haveI` in proofs.

File: Proetale/Morphisms/ProAffineEtale.lean [hunk 3]
```diff
@@ -71,8 +71,153 @@ instance {X Y : Scheme.{u}} (f : X ⟶ Y) [IsAffineHom f] :
...
+    [HasRingHomProperty P Q] {R S : CommRingCat.{u}} (f : R ⟶ S) :
+    (MorphismProperty.pro.{u} (P ⊓ ofObjectProperty (IsAffine ·) ⊤)) (Spec.map f) ↔
+      MorphismProperty.ind.{u} (RingHom.toMorphismProperty @Q) f := by
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · obtain ⟨J, _, _, D, t, s, hs, hts⟩ := h
+    haveI hAff : ∀ j, IsAffine (D.obj j) := fun j ↦
+      ofObjectProperty_top_right_iff.mp (hts j).1.2
+    let Φ : Jᵒᵖ ⥤ CommRingCat.{u} := D.op ⋙ Scheme.Γ
+    let σ : ∀ j' : Jᵒᵖ, Φ.obj j' ⟶ S := fun j' ↦
+      Spec.preimage (s.app j'.unop ≫ (D.obj j'.unop).isoSpec.hom)
```
Comment (chrisflav) [inline Proetale/Morphisms/ProAffineEtale.lean]: Put binders to the left of the colon.

File: Proetale/Morphisms/ProAffineEtale.lean [hunk 4]
```diff
@@ -71,8 +71,153 @@ instance {X Y : Scheme.{u}} (f : X ⟶ Y) [IsAffineHom f] :
...
+          haveI : IsAffine (D.obj k'.unop) := hAff k'.unop
+          dsimp
+          rw [Category.id_comp]
+          apply Spec.map_injective
+          rw [Spec.map_comp, hSpec_τ k', hSpec_τ j']
+          have htn : t.app k'.unop = D.map α.unop ≫ t.app j'.unop := by
+            have := t.naturality α.unop
+            simp only [Functor.const_obj_obj, Functor.const_obj_map, Category.comp_id] at this
+            exact this.symm
+          rw [htn, show Φ.map α = (D.map α.unop).appTop from Scheme.Γ_map_op (D.map α.unop)]
```
Comment (chrisflav) [inline Proetale/Morphisms/ProAffineEtale.lean]: Don't use `show .. from` in `rw`.

File: Proetale/Morphisms/ProAffineEtale.lean [hunk 5]
```diff
@@ -71,8 +71,153 @@ instance {X Y : Scheme.{u}} (f : X ⟶ Y) [IsAffineHom f] :
...
+      have hSpecLimit : IsLimit (Scheme.Spec.mapCone c.op) :=
+        isLimitOfPreserves Scheme.Spec hs.op
+      refine IsLimit.ofIsoLimit hSpecLimit (Cone.ext (Iso.refl _) ?_)
+      intro j'
+      dsimp [c]
+      simp
+    · change P (Spec.map (t.app j'.unop))
+      rw [HasRingHomProperty.Spec_iff (P := P)]
+      exact (hts j'.unop).1
+    · change ofObjectProperty (IsAffine ·) ⊤ (Spec.map (t.app j'.unop))
```
Comment (chrisflav) [inline Proetale/Morphisms/ProAffineEtale.lean]: Don't use `change`, but use the correct API lemmas instead.
